US08012277B2
Synthesis of 60:40 AG:Guanidinium Malonate
Malonic acid (200.0 g, 1.922 mol) was weighed into a 2-liter beaker with a magnetic stir bar and dissolved in 1500 ml of distilled water. Aminoguanidine bicarbonate (313.9 g, 2.31 mol) and guanidine carbonate (138.5 g, 0.769 mol) were added in portions with stirring as to avoid bubbling over the sides of the beaker due to the evolution of carbon dioxide during the reaction. The reaction was stirred at room temperature overnight (approximately 24 hours). The water was removed from the reaction mixture in vacuo with heating to approximately 90° C. for 4 hours. The product was recovered as a crystalline white solid.

reactant | Malonic acid | 1.922 mol, 200.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | Aminoguanidine bicarbonate | 2.31 mol, 313.9 g | C(O)(O)=O.NNC(=N)N
reactant | guanidine carbonate | 0.769 mol, 138.5 g | C(O)(O)=O.NC(=N)N
solvent | water | 1500 ml | O | H2O
product | Guanidinium Malonate | C(CC(=O)[O-])(=O)[O-].NC(=[NH2+])N.NC(=[NH2+])N | InChI=1S/C3H4O4.2CH5N3/c4-2(5)1-3(6)7;2*2-1(3)4/h1H2,(H,4,5)(H,6,7);2*(H5,2,3,4)
